US03962231
Manganese (III) acetate (5.0 g.) in acetic acid (60 ml.) is heated to 70°C. under nitrogen. To the stirred solution is added benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-methyl-3-cephem-4-carboxylate (4.0 g.) and potassium bromide (0.5 g.). The solution is maintained at 70°C. for about eight hours. The reaction mixture is cooled and manganese (II) acetate is filtered from the cooled solution. The solvent is removed under vacuum to afford benzhydryl 7-(2-thienylacetamido)-7 -methoxy-3-acetoxymethyl-3-cephem-4-carboxylate.

reactant | benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-methyl-3-cephem-4-carboxylate | 4.0 g | S1C(=CC=C1)CC(=O)NC1([C@@H]2N(C(=C(CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C28H26N2O5S2
reactant | potassium bromide | 0.5 g | [Br-].[K+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | Manganese (III) acetate | 5.0 g | C(C)(=O)[O-].[Mn+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | benzhydryl 7-(2-thienylacetamido)-7 -methoxy-3-acetoxymethyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1([C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C30H28N2O7S2
